US06242476B1
(4S)-4-(4-cyclohexylbenzylthio)-L-proline (reference compound No. 1)
To (4S)-4-mercapto-L-proline hydrochloride (300 mg) is added 2 N sodium hydroxide (1.6 ml) aqueous solution, and the mixture is stirred at 0° C. A solution of 4-cyclohexylbenzyl chloride (340 mg) in a mixed solvent of ethanol (5 ml)/chloroform (1 ml) is added thereto, and the mixture is stirred at room temperature overnight. The reaction mixture is concentrated under reduced pressure, and deposited crystals are filtered off. The crystals are washed with water, ethanol and diethyl ether successively to give 470 mg (91%) of the titled compound.

reactant | (4S)-4-mercapto-L-proline hydrochloride | 300 mg | Cl.S[C@H]1C[C@H](NC1)C(=O)O
reactant | sodium hydroxide | 2 N, 1.6 ml | [OH-].[Na+]
reactant | 4-cyclohexylbenzyl chloride | 340 mg | C1(CCCCC1)C1=CC=C(CCl)C=C1 | C13H17Cl
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | (4S)-4-(4-cyclohexylbenzylthio)-L-proline | 470 mg, 91% | C1(CCCCC1)C1=CC=C(CS[C@H]2C[C@H](NC2)C(=O)O)C=C1 | C18H25NO2S
